2162-11-15 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2162-11-15**] 04:00 AM
   - patient had increasing respiratory difficulty and was intubated.
   - arterial line placed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-15**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-15**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.2
C (97.1
   HR: 98 (98 - 109) bpm
   BP: 155/92(116) {150/84(110) - 155/92(116)} mmHg
   RR: 22 (12 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
             1,726 mL
   PO:
             TF:
   IVF:
   1,726 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    320 mL
   Urine:
                                                                    250 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                  1,406 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.45/36/80.[**Numeric Identifier 500**]/26/1
   Ve: 8.1 L/min
   PaO2 / FiO2: 80
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   243 K/uL
   12.5 g/dL
   180 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   18 mg/dL
   106 mEq/L
   140 mEq/L
   36.9 %
   11.8 K/uL
        [image002.jpg]
                             [**2162-11-15**]  02:29 AM
                             [**2162-11-15**]  04:11 AM
   WBC
   11.8
   Hct
   36.9
   Plt
   243
   Cr
   0.6
   TropT
   <0.01
   TCO2
   26
   Glucose
   180
   Other labs: PT / PTT / INR:26.9/42.6/2.6, CK / CKMB /
   Troponin-T:67//<0.01, ALT / AST:244/252, Alk Phos / T Bili:93/1.0,
   Lactic Acid:2.9 mmol/L, Albumin:3.4 g/dL, LDH:249 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.7 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR: grossly unchanged.  Possibly worsening left sided
   opacities.
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 .H/O PNEUMONIA, OTHER
 .H/O LIVER FUNCTION ABNORMALITIES\
   67M with COPD, CAD, history of SCLC, prior CVA, presenting with
   tachypnea, hypoxia, and found to have pneumonia.
   .
   # Respiratory distress/tachypnea/hypoxemia.  Patient aphasic and unable
   to fully describe characteristics of onset etc.  Has likely pneumonia
   as below.  Also consider COPD flare given history, acute CHF (systolic
   or diastolic dysfunction including cardiac ischemia), tachypnea in the
   setting of fever.  PE unlikely given therapeutic INR.  Pericardial
   disease/effusion unlikely.
   - Treatment of HCAP as below.
   - Consider steroids given COPD history; for now nebs standing and prn.
   - Appears overall euvolemic though with elevated BNP (unknown baseline
   but grossly normal TTE in [**Month (only) 594**]) - continue to monitor volume status
   and consider diuresis prn.  Consider repeat TTE.
   - Continue ROMI enzymatically given seemingly acute onset.
   - O2 prn for goal O2 sats >92%
   .
   # Pneumonia.  Infiltrate in area of prior radiation scarring.
   Represents HCAP.  Previously MRSA screen positive.  No known history of
   pseudomonas or risk factors for MDR GNRs.  Also consider endobronchial
   lesion with postobstructive component given cancer history.
   - Vanc and levofloxacin; anticipated 8 day course.
   - Obtain further info re: ?any recent antibiotic use that would
   predispose to more resistent bugs.
   - Consider reimaging of chest following treatment given past cancer
   and/or endobronchial assessment with bronchoscopy.
   - Check legionella antigen.
   - sputum culture if can produce.
   - Flu rule out.
   .
   # Fever, leukocytosis.  To >103 in ED.  Likely explained by HCAP, but
   also consider flu, UTI, or other etiologies.
   - check urine culture.
   - f/u blood cultures.
   - consider flu rule out.
   .
   # Elevated LFTs.  Slight AST predominence.  Had to milder degree during
   CVA admission in [**Month (only) 594**].  MIld RUQ tenderness on exam.  Without
   cholestatic picture, less suspicious of biliary pathology
   - Continue to trend.
   - Prior records.
   - Will check abdominal US.
   - Consider holding statin.
   - Further workup with viral studies, iron studies, rheum workup if
   persists.
   .
   # Afib with history of embolic stroke.
   - Continue coumadin - watch INR with fluoroquinolones.  Need to clarify
   [**Hospital1 69**] dosing.
   .
   FEN: No IVF, replete electrolytes, regular diet with ensure
   supplements.
   Prophylaxis: coumadin
   Access: peripherals
   Code:  Full per [**Hospital1 69**] notes.
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-11-14**] 11:02 PM
   18 Gauge - [**2162-11-14**] 11:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-11-16 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2162-11-15**] 09:02 AM
 URINE CULTURE - At [**2162-11-15**] 01:02 PM
   Weaned from AC to PS down to 5/5 but pH 7.23 so upped back to [**10-11**]
   Converted to sinus rhythm
   Hypothermic to 95.6 at midnight, put on bair hugger, then normothermic
   at 4am
   5am SBP drop to 70's, IV bolus given, increased to 100 with MAP >65
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-15**] 02:00 AM
   Vancomycin - [**2162-11-15**] 08:17 PM
   Piperacillin - [**2162-11-16**] 04:19 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-16**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 77 (67 - 92) bpm
   BP: 97/50(68) {87/49(64) - 135/78(99)} mmHg
   RR: 23 (0 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,496 mL
                                                                    800 mL
   PO:
             TF:
                                                                    135 mL
                                                                    133 mL
   IVF:
                                                                  4,261 mL
                                                                    667 mL
   Blood products:
   Total out:
                                                                  1,143 mL
                                                                    350 mL
   Urine:
                                                                  1,143 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,353 mL
                                                                30-150 /hr
                                                   About 4L up through LOS
                                                                    450 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 739 (733 - 739) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 38
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.38/48/99/27/1
   Ve: 9.4 L/min
   PaO2 / FiO2: 198
   Physical Examination
   General Appearance: Opens eyes to tactile stimulation. R eye exotropia.
   Does not follow commands
   Eyes / Conjunctiva: anicteric
   Cardiovascular: Very faint
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Light expiratory rhonchi and wheezes bilaterally
   Abdominal: No tenderness to palpation
   Extremities: No edema noted BLE's
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   11.0 g/dL
   148 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.2 mEq/L
   20 mg/dL
   107 mEq/L
   140 mEq/L   all normal this am
   33.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2162-11-15**]  04:11 AM
                             [**2162-11-15**]  08:40 AM
                             [**2162-11-15**]  12:40 PM
                             [**2162-11-15**]  03:54 PM
                             [**2162-11-15**]  06:30 PM
                             [**2162-11-15**]  08:11 PM
                            [**2162-11-16**]  03:25 AM
                            [**2162-11-16**]  03:38 AM
                            [**2162-11-16**]  04:20 AM
                            [**2162-11-16**]  05:01 AM
   WBC
   11.8  <--12.8 on admit
   10.7
   Hct
   36.9 <--38.3
   33.4
   Plt
   243
   273
   Cr
   0.6
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   26
   27
   26
   29
   29
   26
   29
   Glucose
   180
   157
   148
   Other labs: PT / PTT / INR:35.0/40.1/3.6   <--2.6, 2.4 , CK / CKMB /
   Troponin-T:67/2/<0.01, ALT / AST:181/99   (today)  trending down from
   300/463 on admission, Alk Phos / T Bili:88/0.4   (today) , Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:249 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.4 mg/dL  (low)
   Fluid analysis / Other labs: lipase 14 normal
   BNP 1164 yesterday
   CE's negative x3
   Alb 3.3
   Imaging: [**11-16**] CXR R opacity looks worse with increased haziness of R
   base, also L hilum appears worse (my read)
   [**11-15**] CT chest WET
   Right lung post-radiation changes with likely superimposed pneumonia
   involving
   right upper and lower lobes. More ggo in right lung base is also noted.
   Small
   right pleural effusion. Gallstones. Splenomegaly. Nodular adrenal
   glands and
   prominent rp/mesenteric lymph nodes. Mild cardiomegaly. D/w Dr.
   [**Last Name (STitle) 9225**] 6 pm
   [**11-15**] Abd u/s
   IMPRESSION:
   1. Cholelithiasis with no sign of cholecystitis.
   2. Echogenic liver consistent with mild fatty infiltration. Other forms
   of
   liver disease and more advanced liver disease including significant
   hepatic
   fibrosis/cirrhosis cannot be excluded on this study. No biliary
   dilatation.
   3. Borderline splenomegaly.
   Microbiology: [**11-16**] Resp viral Cx pending
   last UA negative [**11-14**]
   [**11-15**] UCx pending, [**11-14**] UCx pending
   [**11-15**] sputum Gstain commensural flora
   Influenza negative
   Legionella negative
   [**11-14**] BCx negative to date
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 .H/O PNEUMONIA, OTHER
 .H/O LIVER FUNCTION ABNORMALITIES
   67M with COPD, CAD, history of SCLC, CVA in [**4-15**], presenting with
   tachypnea, hypoxia, and found to have pneumonia.
   .
   # Respiratory distress/tachypnea/hypoxemia.  Ddx is pneumonia, COPD
   flare given history, acute CHF (systolic or diastolic dysfunction
   including cardiac ischemia) or tachypnea in the setting of fever.  PE
   unlikely given therapeutic INR.
   At this point, with worsening CXR most likely etiology is PNA.
   Continue steroids given COPD history and wheezes heard on exam
   Wean vent as tolerated.
   F/u final read of CT chest given complex history of radiation and SCLC.
   ABx for PNA
   .
   # Pneumonia.  Infiltrate in area of prior radiation scarring.
   Represents HCAP.  Previously MRSA screen positive.  No known history of
   pseudomonas or risk factors for MDR GNRs.  Also consider endobronchial
   lesion with postobstructive component given cancer history.
   - Vanc, zosyn and levofloxacin for anticipated 8 day course assuming
   status improves, today day 2.
   Consider bronch
   - f/u legionella antigen and sputum stain and culture
   - Can d/c droplet precautions as flu negative.
   F/u resp viral Ag
   .
   # Fever, leukocytosis.  To >103 in ED.  Likely explained by HCAP, but
   also consider flu, UTI, or other etiologies.
   - f/u urine and blood cx.
   .
   # Elevated LFTs.  Slight AST predominence.  Had to milder degree during
   CVA admission in [**Month (only) 594**].  MIld RUQ tenderness on exam.  Without
   cholestatic picture, less suspicious of biliary pathology
   - Continue to trend.
   - RUQ ultrasound.
   .
   # Afib with history of embolic stroke.
   - d/c coumadin and bridge with heparin once subtherapeutic.
   .
   FEN: start tube feeds, replete lytes PRN.
   Prophylaxis: heparin bridge when no longer therapeutic, home
   lansoprazole.
   Access: peripheral, ABG
   Code:  Full per [**Hospital1 69**] notes.
   Communication: Patient and daughter
   Disposition: pending clinical improvement
   Coumadin has been stopped
   difficulty swallowing --> speech and swallow consult
   Nutrition
          Multivitamin / Mineral supplement: can discontinue po
   multivitamin when tube feeds @ goal
          Change tube feeds to Boost Glucose control @15mL/hr to
   increase 10mL q4 hr to goal 75mL/hr ([**2133**] kcals/104 gr protein)
          Residual checks q4 hr, hold if >200mL
          Please discontinue po diet order
          Lyte and Glucose control as you are
          Following #[**Numeric Identifier 692**]
   Methpred Vanc Zosyn Levaquin
   Stopped Coumadin
   - Weaned from assist to CPAP
   - Chest CT showed no changes
   - Tube feeds started
   - ABG on 7.33/53/79/29
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2162-11-16**] 03:58 AM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-11-14**] 11:02 PM
   18 Gauge - [**2162-11-14**] 11:02 PM
   Arterial Line - [**2162-11-15**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-11-17 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
 BRONCHOSCOPY - At [**2162-11-16**] 08:15 AM diagnostic
   - SBT --> wasn't doing well on [**5-11**] so didn't get SBT
   - started tamiflu, f/u flu swab
   - steroids to prednisone 40mg daily
   - Vanc trough 6.9, changed to Q8hrs.
   - BAL in the am --> resp viral Ag screen negative, negative Gstain,
   negative PCP.
   [**Name Initial (NameIs) 429**]:
   No Known Drug [**Name Initial (NameIs) 429**]
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-11-15**] 02:00 AM
   Levofloxacin - [**2162-11-16**] 10:05 AM
   Piperacillin - [**2162-11-16**] 08:00 PM
   Vancomycin - [**2162-11-17**] 12:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2162-11-16**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-17**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 71 (64 - 78) bpm
   BP: 117/57(78) {97/49(67) - 122/66(87)} mmHg
   RR: 21 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,571 mL
                                                                    676 mL
   PO:
             TF:
                                                                    880 mL
                                                                    355 mL
   IVF:
                                                                  1,441 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                    450 mL
   [**Year (4 digits) **]:
                                                                  1,005 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,566 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 401 (401 - 678) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.34/54/125/32/2
   Ve: 8.9 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Opens eyes to tactile stimulation. R eye exotropia.
   Does not follow commands
   Eyes / Conjunctiva: anicteric
   Cardiovascular: Very faint, RRR
   Respiratory / Chest: Light expiratory rhonchi and wheezes bilaterally.
   Using accessory muscles to breath while doing SBT.
   Abdominal: No tenderness to palpation
   Extremities: No edema noted BLE's
   Labs / Radiology
   264 K/uL
   10.7 g/dL
   155 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.0 mEq/L
   24 mg/dL
   108 mEq/L
   144 mEq/L
   32.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2162-11-15**]  06:30 PM
                             [**2162-11-15**]  08:11 PM
                            [**2162-11-16**]  03:25 AM
                            [**2162-11-16**]  03:38 AM
                            [**2162-11-16**]  04:20 AM
                            [**2162-11-16**]  05:01 AM
                            [**2162-11-16**]  12:00 PM
                            [**2162-11-16**]  03:06 PM
                            [**2162-11-16**]  04:00 PM
                            [**2162-11-17**]  02:52 AM
   WBC
   10.7
   11.4
   Hct
   33.4
   32.7
   Plt
   273
   264
   Cr
   0.6
   0.6
   TCO2
   26
   29
   29
   26
   29
   30
   Glucose
   157
   148
   188
   167
   155
   Other labs: PT / PTT / INR:43.7/36.0/4.7, CK / CKMB /
   Troponin-T:67/2/<0.01, ALT / AST:287/230, Alk Phos / T Bili:88/0.4,
   Amylase / Lipase:30/34, Differential-Neuts:90.4 %, Lymph:6.3 %,
   Mono:3.1 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:3.3 g/dL,
   LDH:249 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:1.8 mg/dL
   Imaging: [**11-16**] CXR: concerning for multifocal PNA
   [**11-17**] CXR: worsening R sided opacities
   [**11-16**] Abdominal U/S:
   1. Cholelithiasis with no sign of cholecystitis.
   2. Echogenic liver consistent with mild fatty infiltration. Other forms
   of liver disease and more advanced liver disease including significant
   hepatic fibrosis/cirrhosis cannot be excluded on this study. No biliary
   dilatation.
   3. Borderline splenomegaly.
   Microbiology: [**11-16**]: Respiratory viral screen: negative
   [**11-16**]: BAL showed PMN's but no bacteria or PCP.
   [**Name10 (NameIs) **] cx negative
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 .H/O PNEUMONIA, OTHER
 .H/O LIVER FUNCTION ABNORMALITIES
   67M with COPD, CAD, history of SCLC, CVA in [**4-15**], presenting with
   tachypnea, hypoxia, and found to have pneumonia.
   .
   # Respiratory distress/tachypnea/hypoxemia.  Likely multifactorial,
   with combination of pneumonia and COPD flare given history.  Acute CHF
   (systolic or diastolic dysfunction including cardiac ischemia) or
   tachypnea in the setting of fever seem less likely to be playing an
   important role at this point.  PE unlikely given therapeutic INR.   He
   is not wheezy on exam and has a worsening CXR, making us suspect PNA is
   [**Last Name **] problem at this point.
   - doing well on SBT, can extubate.
   - will do a rapid steroid taper
 prednisone 40mg today, then 20mg x2
   days, then 10mg x2 days, then off.
   - continue inhalers.
   F/u final read of CT chest given complex history of radiation and SCLC.
   ABx for PNA as below
   .
   # Pneumonia.  Infiltrate in area of prior radiation scarring.
   Represents HCAP.  Previously MRSA screen positive.  No known history of
   pseudomonas or risk factors for MDR GNRs.  He did not appear obstructed
   on bronchoscopy, making a post-obstructive pneumonia less likely.
   - Vanc, zosyn and levofloxacin for anticipated 8 day course assuming
   status improves, today day 4.
   - Though viral DFA negative, plan is still to continue oseltamivir and
   precautions until viral cultures are negative.
   - f/u legionella antigen
   .
   # Elevated LFTs.  Worsened again today, unclear etiology.  Slight AST
   predominence.  Had to milder degree during CVA admission in [**Month (only) 594**].
   Abdominal U/S consistent with NASH, which is most likely explanation.
   - Contact PCP to see what previous work-up has been done.
   - Continue to trend.
   .
   # Afib with history of embolic stroke.  Today is supratherapeutic in
   setting of receiving levofloxacin.
   - will restart coumadin once INR in range, but need to confirm
   outpatient dose.  Can contact [**Name (NI) 69**].
   .
   FEN: start tube feeds, replete lytes PRN.  Had been taking POs, but
   given complex history w/ stroke, will get S&S consult.
   Prophylaxis: still supratherapeutic INR, home lansoprazole.
   Access: peripheral, ABG
   Code:  Full per [**Hospital1 69**] notes.
   Communication: Patient and daughter
   Disposition: to floor tomorrow if remains stable.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2162-11-17**] 03:34 AM 50 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-11-14**] 11:02 PM
   Arterial Line - [**2162-11-15**] 07:00 AM
   18 Gauge - [**2162-11-15**] 10:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-11-18 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2162-11-17**] 09:45 AM
   - extubated
   - viral DFA from BAL negative, but we are waiting for culture to clear
   precautions and stop tamiflu.
   - prednisone taper - two days 20mg ([**11-17**] and [**11-18**]), two days 10mg,
   then off.
   - Seen by speech and swallow
   - ABG extubaed 7.44/44/99
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-11-16**] 10:05 AM
   Vancomycin - [**2162-11-18**] 12:13 AM
   Piperacillin - [**2162-11-18**] 04:13 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2162-11-17**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-11-18**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 78 (70 - 81) bpm
   BP: 120/52(75) {107/52(73) - 148/75(99)} mmHg
   RR: 26 (17 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,955 mL
                                                                    840 mL
   PO:
             TF:
                                                                  1,015 mL
                                                                    470 mL
   IVF:
                                                                  1,040 mL
                                                                    370 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    700 mL
   Urine:
                                                                  2,330 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                     625  is 5.7L positive through LOS, making good UOP mL
                                                                    140 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 36%
   PIP: 6 cmH2O
   SpO2: 96%
   ABG: 7.44/44/99/36/4   yesterday at 3pm
   Ve: 10.9 L/min
   PaO2 / FiO2: 275
   Physical Examination
   Awake, alert, responsive, answering questions, with NRB 15L on. Not in
   distress. Has R mid lung crackle and decreased BS
s at base but L is
   essentially clear. Heart sounds faint. Abd benign. Trace positive edema
   in feet only.
   Labs / Radiology
   284 K/uL
   11.2 g/dL
   113 mg/dL
   0.5 mg/dL
   36 mEq/L   elevated/rising
   3.3 mEq/L
   17 mg/dL
   103 mEq/L
   140 mEq/L
   33.5 %
   8.9 K/uL
        [image002.jpg]
                            [**2162-11-16**]  03:38 AM
                            [**2162-11-16**]  04:20 AM
                            [**2162-11-16**]  05:01 AM
                            [**2162-11-16**]  12:00 PM
                            [**2162-11-16**]  03:06 PM
                            [**2162-11-16**]  04:00 PM
                            [**2162-11-17**]  02:52 AM
                            [**2162-11-17**]  09:04 AM
                            [**2162-11-17**]  03:12 PM
                            [**2162-11-18**]  02:59 AM
   WBC
   11.4
   8.9   decreasing
   Hct
   32.7
   33.5  stable
   Plt
   264
   284  stable
   Cr
   0.6
   0.5
   TCO2
   29
   26
   29
   30
   34
   31
   Glucose
   148
   188
   167
   155
   113
   Other labs: PT / PTT / INR:32.8/34.6/3.3   <-- 4.7, 3.6, 2.6, CK / CKMB
   / Troponin-T:67/2/<0.01, ALT / AST:211/82   <--287/230, 181/99, Alk
   Phos / T Bili:88/0.4   OLD , Amylase / Lipase:30/34   yesterday,
   Differential-Neuts:90.4 %, Lymph:6.3 %, Mono:3.1 %, Eos:0.1 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:249 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: [**11-16**] Mini BAL RBC 0, WBC 0
   Imaging: [**11-16**] CXR
   FINDINGS: In comparison with study of [**10-17**], there is little overall
   change.
   Endotracheal tube tip remains in place. Post-radiation changes with
   resultant
   volume loss again seen in the right hemithorax with superimposed
   opacification
   concerning for multifocal pneumonia. The left lung remains well
   expanded and essentially clear.
   [**10-18**] CXR pending
   [**2162-11-15**] CT chest
   IMPRESSION:
   1. Multifocal consolidative opacification with air bronchograms most
   pronounced in the right upper and right lower lobes is concerning for
   multifocal pneumonia.
   2. Unchanged appearance to post-radiation changes, cholelithiasis,
   right
   pleural effusion, and splenomegaly.
   Microbiology: BAL  Resp Ag screen negative, Cx pending
   rest of Gstain, fungal, etc. all negative to date
   mini BAL resp Ag screen negative, Cx pending
   Last UCx negative
   Last sputum with OP flora
   Assessment and Plan
 ALTERATION IN NUTRITION
 ATRIAL FIBRILLATION (AFIB)
 .H/O PNEUMONIA, OTHER
 .H/O LIVER FUNCTION ABNORMALITIES
   67M with COPD, CAD, history of SCLC, CVA in [**4-15**], presenting with
   tachypnea, hypoxia, and found to have pneumonia.
   # Respiratory distress/tachypnea/hypoxemia.  Likely multifactorial,
   with combination of pneumonia and COPD flare given history.  Acute CHF
   (systolic or diastolic dysfunction including cardiac ischemia) or
   tachypnea in the setting of fever seem less likely to be playing an
   important role at this point.  PE unlikely given therapeutic INR.   He
   is not wheezy on exam and has a worsening CXR, making us suspect PNA is
   [**Last Name **] problem at this point.
   - Extubated and satting well
   - Wean O2
   - will do a rapid steroid taper
 Prednisone 20mg [**11-17**] and [**11-18**], then
   10mg [**11-19**] and [**11-20**] then off
   - continue inhalers.
   - ABx for PNA as below
   # Pneumonia.  Infiltrate in area of prior radiation scarring.
   Represents HCAP.  Previously MRSA screen positive.  No known history of
   pseudomonas or risk factors for MDR GNRs.  He did not appear obstructed
   on bronchoscopy, making a post-obstructive pneumonia less likely.
   - Vanc, zosyn and levofloxacin for anticipated 8 day course assuming
   status improves, today day [**5-14**]
   - Will need vanc trough as last one [**11-16**] was low
   - Though viral DFA negative, plan is still to continue oseltamivir and
   precautions until viral cultures are negative, then stop
   # Elevated LFTs.  Worsened again today, unclear etiology.  Slight AST
   predominence.  Had to milder degree during CVA admission in [**Month (only) 594**].
   Abdominal U/S consistent with NASH, which is most likely explanation.
   Also had CT abdomen [**3-15**] showing fatty liver.
   - Continue to trend.
   - Could consider repeat CT abdomen once stabilized from respiratory
   standpoint
   # Afib with history of embolic stroke.  Today is supratherapeutic in
   setting of receiving levofloxacin.
   - will restart coumadin once INR in range, but need to confirm
   outpatient dose.  Can contact [**Name (NI) 69**].
   - hold off on restarting as INR still elevated, if drops below 2, need
   to restart
   FEN: start tube feeds, replete lytes PRN.  Patient gets food PO and
   uses PEG tube for meds and supplements. Speech/swallow recs ground
   solids and nectar thickened liquids.
   Prophylaxis: still supratherapeutic INR, home lansoprazole.
   Access: peripheral, ABG
   Code:  Full per [**Hospital1 69**] notes.
   Communication: Patient and daughter
   Disposition: to floor today
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2162-11-18**] 04:30 AM 75 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-11-14**] 11:02 PM
   Arterial Line - [**2162-11-15**] 07:00 AM
   18 Gauge - [**2162-11-15**] 10:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-11-18 13:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: no complaints
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2162-11-17**] 09:45 AM
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2162-11-16**] 10:05 AM
   Vancomycin - [**2162-11-18**] 12:13 AM
   Piperacillin - [**2162-11-18**] 04:13 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: PEG
   Nutritional Support: Tube feeds
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-11-18**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 87 (71 - 87) bpm
   BP: 122/61(84) {107/50(69) - 149/72(100)} mmHg
   RR: 24 (20 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,955 mL
                                                                  1,214 mL
   PO:
             TF:
                                                                  1,015 mL
                                                                    786 mL
   IVF:
                                                                  1,040 mL
                                                                    428 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                  1,910 mL
   Urine:
                                                                  2,330 mL
                                                                  1,910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    625 mL
                                                                   -696 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: 7.44/44/99.[**Numeric Identifier 433**]/36/4
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous:  mild R > L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, still apprears
   confused
   Labs / Radiology
   11.2 g/dL
   284 K/uL
   113 mg/dL
   0.5 mg/dL
   36 mEq/L
   3.3 mEq/L
   17 mg/dL
   103 mEq/L
   140 mEq/L
   33.5 %
   8.9 K/uL
        [image002.jpg]
                            [**2162-11-16**]  03:38 AM
                            [**2162-11-16**]  04:20 AM
                            [**2162-11-16**]  05:01 AM
                            [**2162-11-16**]  12:00 PM
                            [**2162-11-16**]  03:06 PM
                            [**2162-11-16**]  04:00 PM
                            [**2162-11-17**]  02:52 AM
                            [**2162-11-17**]  09:04 AM
                            [**2162-11-17**]  03:12 PM
                            [**2162-11-18**]  02:59 AM
   WBC
   11.4
   8.9
   Hct
   32.7
   33.5
   Plt
   264
   284
   Cr
   0.6
   0.5
   TCO2
   29
   26
   29
   30
   34
   31
   Glucose
   148
   188
   167
   155
   113
   Other labs: PT / PTT / INR:32.8/34.6/3.3, CK / CKMB /
   Troponin-T:67/2/<0.01, ALT / AST:211/82, Alk Phos / T Bili:88/0.4,
   Amylase / Lipase:30/34, Differential-Neuts:90.4 %, Lymph:6.3 %,
   Mono:3.1 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:3.3 g/dL,
   LDH:249 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ATRIAL FIBRILLATION (AFIB)
 .H/O PNEUMONIA, OTHER
 .H/O LIVER FUNCTION ABNORMALITIES
   67-year-old man with COPD, Afib, history of stroke, CAD, and SCLC s/p
   chemo and XRT in [**2155**] now presents with respiratory failure due to
   pneumonia.  Extubated yesterday and doing well.
   1. Respiratory Failure: Improved - continue wean O2 as tolerated - on
   shovel mask.  Cont steroid taper. Cont vanc/zosym/levo.  Awaiting viral
   culture to D/C flu precautions
   2. Elevated LFTs: Cont to trend
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-11-14**] 11:02 PM
   Arterial Line - [**2162-11-15**] 07:00 AM
   18 Gauge - [**2162-11-15**] 10:19 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: